US05145942
Anhydrous aluminum chloride (160.0 g, 1.20 mol) was added to a stirred solution of isophthaloyl chloride (101.5 g, 0.50 mol) dissolved in fluorobenzene (480.5 g, 5.0 mol) over a five to ten minute period. The mixture was stirred at room temperature for one hour and then maintained at 70°-80° C. for four hours. After cooling, the reaction mixture was poured onto approximately 2000 g of ice containing 100 mL of concentrated hydrochloric acid. The resulting suspension was separated by decantation and washed several times with water. The organic layer was distilled to remove excess fluorobenzene and the solid residue was collected by filtration, washed with water, and dried at 100° C. The crude solid was recrystallized from approximately 1000 mL of toluene to afford 130.5 g (81% yield) of 1,3-bis(4-fluorobenzoyl)benzene; m.p. 177.5°-178.5° C.; 1H NMR (CDCl3) δ 6.8-8.3 (m, 12H, aromatic). Anal. Calcd. for C20H12F2O2 : C, 74.53%; H, 3.75%; F, 11.79%. Found: C, 74.33%; H, 3.59%; F, 11.42%.

reactant | aluminum chloride | 1.20 mol, 160.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isophthaloyl chloride | 0.50 mol, 101.5 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | fluorobenzene | 5.0 mol, 480.5 g | FC1=CC=CC=C1 | C6H5F
reactant | hydrochloric acid | Cl | ClH
product | 1,3-bis(4-fluorobenzoyl)benzene | 130.5 g, 81% yield | FC1=CC=C(C(=O)C2=CC(=CC=C2)C(C2=CC=C(C=C2)F)=O)C=C1 | C20H12F2O2
